US07838547B2
2-Methyloctahydropyrrolo[3,4-c]pyrrole
A solution of 2-benzyl-5-methyloctahydropyrrolo[3,4-c]pyrrole (2.4 g) in methanol (60 ml) was mixed with ammonium formate (2.1 g) and palladium on carbon (5%, 0.12 g), and the mixture was refluxed for 8 hours. After cooling, the reaction solution was filtered and concentrated. The crude product could be directly reacted further. The product with the molecular weight of 126.20 (C7H14N2); MS (ESI): 127 (M+H+) was obtained in this way.

reactant | 2-benzyl-5-methyloctahydropyrrolo[3,4-c]pyrrole | 2.4 g | C(C1=CC=CC=C1)N1CC2CN(CC2C1)C | C14H20N2
reactant | ammonium formate | 2.1 g | C(=O)[O-].[NH4+]
solvent | methanol | 60 ml | CO | CH4O
catalyst | palladium on carbon | 0.12 g | [Pd] | Pd
product | 2-Methyloctahydropyrrolo[3,4-c]pyrrole | CN1CC2CNCC2C1 | C7H14N2
